US08053440B2
NaH (0.12 g, 0.0050 mol, 60% in mineral oil) was added to 4-hydroxy-3-methoxylbenzalde (0.636 g, 4.18 mmol) in anhydrous DMF (15 mL) and then (2-bromoethoxy)-tert-butyl-dimethylsilane (1.0 g, 4.18 mmol) was added and the reaction was kept at room temperature overnight. The reaction mixture was poured into water. The mixture was extracted with dichloromethane and the combined organic layers were passed through a column to yield 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-3-methoxybenzaldehyde (170 mg, 13%). 2-Amino-4,6-dimethoxy-benzamide (101 mg, 0.515 mmol), 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-3-methoxybenzaldehyde (160 mg, 0.515 mmol), sodium hydrogen sulfite (100 mg, 58.5%) and p-toluenesulfonic acid monohydrate (10 mg) were mixed with N,N-dimethyl acetamide (15 mL) and heated to 150° C. for 16 h. N,N-dimethyl acetamide was removed under vacuum and the residue was poured into water (50 mL). The solid was filtered off and further purified by column chromatography to yield 2-(4-(2-hydroxyethoxy)-3-methoxyphenyl)-5,7-dimethoxyquinazolin-4(3H)-one (15 mg, 7.8%). Selected data: MS (ES) m/z: 373.1; MP 246-248° C.

reactant | 2-Amino-4,6-dimethoxy-benzamide | 0.515 mmol, 101 mg | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-3-methoxybenzaldehyde | 0.515 mmol, 160 mg | C(C)(C)(C)[Si](OCCOC1=C(C=C(C=O)C=C1)OC)(C)C | C16H26O4Si
reactant | sodium hydrogen sulfite | 100 mg | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 10 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethyl acetamide | 15 mL | CN(C(C)=O)C | C4H9NO
product | 2-(4-(2-hydroxyethoxy)-3-methoxyphenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 15 mg, 7.8% | OCCOC1=C(C=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)OC | C19H20N2O6
